US05527818
Preparation of 3-(3,3-dimethyl-2,3-dihydrobenzofuran-5-yl-oxysulfonyl)-1,2,4-triazole
5.4 g of 3,3-dimethyl-5-hydroxy-2,3-dihydrobenzofuran was dissolved in 30 ml of tetrahydrofuran, and then 4.6 ml of triethylamine was added while stirring the solution. Then, 5.0 g of 3-chlorosulfonyl-1,2,4-triazole was gradually added while cooling with ice and stirring the solution. Then, this was stirred for 14 hours. Tetrahydrofuran was evaporated, and 2N hydrochloric acid was added and extracted with ethyl acetate. The organic layer was washed with brine, dried with magnesium sulfate, and the solvent was removed, so that coarse crystals were obtained. This was then recrystallized from n-hexane/ethyl acetate, so that 2.7 g of the titled compound was obtained.

reactant | 3,3-dimethyl-5-hydroxy-2,3-dihydrobenzofuran | 5.4 g | CC1(COC2=C1C=C(C=C2)O)C | C10H12O2
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chlorosulfonyl-1,2,4-triazole | 5.0 g | ClS(=O)(=O)C1=NNC=N1 | C2H2ClN3O2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(3,3-dimethyl-2,3-dihydrobenzofuran-5-yl-oxysulfonyl)-1,2,4-triazole | CC1(COC2=C1C=C(C=C2)OS(=O)(=O)C2=NNC=N2)C | C12H13N3O4S
